Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[CH2:1][CH2:2][O:3][c:4]1[c:5]([O:6][CH3:7])[cH:8][c:9]2[c:10]([O:11][c:12]3[cH:13][c:14]4[cH:15][cH:16][cH:17][cH:18][c:19]4[n:20][c:21]3[CH3:22])[cH:23][cH:24][n:25][c:26]2[cH:27]1.[CH3:28][CH2:29][O:30][C:31](=[O:32])[CH:33]1[CH2:34][CH2:35][NH:36][CH2:37][CH2:38]1>>[CH2:1]([CH2:2][O:3][c:4]1[c:5]([O:6][CH3:7])[cH:8][c:9]2[c:10]([O:11][c:12]3[cH:13][c:14]4[cH:15][cH:16][cH:17][cH:18][c:19]4[n:20][c:21]3[CH3:22])[cH:23][cH:24][n:25][c:26]2[cH:27]1)[N:36]1[CH2:35][CH2:34][CH:33]([C:31]([O:30][CH2:29][CH3:28])=[O:32])[CH2:38][CH2:37]1,[Cl:101][CH2:1][CH2:2][O:3][c:4]1[c:5]([O:6][CH3:7])[cH:8][c:9]2[c:10]([O:11][c:12]3[cH:13][c:14]4[cH:15][cH:16][cH:17][cH:18][c:19]4[n:20][c:21]3[CH3:22])[cH:23][cH:24][n:25][c:26]2[cH:27]1.[CH3:28][CH2:29][O:30][C:31](=[O:32])[CH:33]1[CH2:34][CH2:35][NH:36][CH2:37][CH2:38]1>>[CH2:1]([CH2:2][O:3][c:4]1[c:5]([O:6][CH3:7])[cH:8][c:9]2[c:10]([O:11][c:12]3[cH:13][c:14]4[cH:15][cH:16][cH:17][cH:18][c:19]4[n:20][c:21]3[CH3:22])[cH:23][cH:24][n:25][c:26]2[cH:27]1)[N:36]1[CH2:35][CH2:34][CH:33]([C:31]([O:30][CH2:29][CH3:28])=[O:32])[CH2:38][CH2:37]1,SN2,"[(36, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[c:8]1[CH:9]=[C:10]1[N:11]=[CH:12][N:13]=[C:14]1[CH2:15]2.[NH2:16][c:17]1[cH:18][cH:19][c:20]([Cl:21])[cH:22][c:23]1[Br:24]>>[c:1]1([NH:16][c:17]2[cH:18][cH:19][c:20]([Cl:21])[cH:22][c:23]2[Br:24])[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[c:8]1[CH:9]=[C:10]1[N:11]=[CH:12][N:13]=[C:14]1[CH2:15]2,[Cl:101][c:1]1[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[c:8]1[CH:9]=[C:10]1[N:11]=[CH:12][N:13]=[C:14]1[CH2:15]2.[NH2:16][c:17]1[cH:18][cH:19][c:20]([Cl:21])[cH:22][c:23]1[Br:24]>>[c:1]1([NH:16][c:17]2[cH:18][cH:19][c:20]([Cl:21])[cH:22][c:23]2[Br:24])[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[c:8]1[CH:9]=[C:10]1[N:11]=[CH:12][N:13]=[C:14]1[CH2:15]2,SNAr(ortho),"[(16, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[c:3]([Cl:4])[cH:5][cH:6][c:7]([Cl:8])[cH:9]1.[CH3:10][CH2:11][O:12][C:13](=[O:14])[c:15]1[nH:16][c:17]([Br:18])[n:19][c:20]1[CH3:21]>>[CH2:1]([c:2]1[c:3]([Cl:4])[cH:5][cH:6][c:7]([Cl:8])[cH:9]1)[n:16]1[c:15]([C:13]([O:12][CH2:11][CH3:10])=[O:14])[c:20]([CH3:21])[n:19][c:17]1[Br:18],[CH3:10][CH2:11][O:12][C:13](=[O:14])[c:15]1[nH:16][c:17]([Br:18])[n:19][c:20]1[CH3:21].[Br:101][CH2:1][c:2]1[c:3]([Cl:4])[cH:5][cH:6][c:7]([Cl:8])[cH:9]1>>[CH2:1]([c:2]1[c:3]([Cl:4])[cH:5][cH:6][c:7]([Cl:8])[cH:9]1)[n:16]1[c:15]([C:13]([O:12][CH2:11][CH3:10])=[O:14])[c:20]([CH3:21])[n:19][c:17]1[Br:18],SN2,"[(16, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][c:2]1[cH:3][cH:4][c:5]([CH2:6][CH2:7][N:8]2[CH2:9][CH2:10][CH2:11][CH:12]([CH2:13][c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20]2)[cH:21][cH:22]1>>[NH2:1][c:2]1[cH:3][cH:4][c:5]([CH2:6][CH2:7][N:8]2[CH2:9][CH2:10][CH2:11][CH:12]([CH2:13][c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20]2)[cH:21][cH:22]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][c:2]1[cH:3][cH:4][c:5]([CH2:6][CH2:7][N:8]2[CH2:9][CH2:10][CH2:11][CH:12]([CH2:13][c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20]2)[cH:21][cH:22]1.[H+:301]>>[NH2:1][c:2]1[cH:3][cH:4][c:5]([CH2:6][CH2:7][N:8]2[CH2:9][CH2:10][CH2:11][CH:12]([CH2:13][c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20]2)[cH:21][cH:22]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][cH:7][c:8]2[cH:9][n:10][cH:11][c:12]([Cl:13])[c:14]12.[CH3:15][C:16]([CH3:17])([CH3:18])[O:19][C:20](=[O:21])[NH:22][CH2:23][CH:24]1[CH2:25][CH2:26][NH:27][CH2:28][CH2:29]1>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][cH:7][c:8]2[cH:9][n:10][cH:11][c:12]([Cl:13])[c:14]12)[N:27]1[CH2:26][CH2:25][CH:24]([CH2:23][NH:22][C:20]([O:19][C:16]([CH3:15])([CH3:17])[CH3:18])=[O:21])[CH2:29][CH2:28]1,[Cl:101][S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][cH:7][c:8]2[cH:9][n:10][cH:11][c:12]([Cl:13])[c:14]12.[CH3:15][C:16]([CH3:17])([CH3:18])[O:19][C:20](=[O:21])[NH:22][CH2:23][CH:24]1[CH2:25][CH2:26][NH:27][CH2:28][CH2:29]1>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][cH:7][c:8]2[cH:9][n:10][cH:11][c:12]([Cl:13])[c:14]12)[N:27]1[CH2:26][CH2:25][CH:24]([CH2:23][NH:22][C:20]([O:19][C:16]([CH3:15])([CH3:17])[CH3:18])=[O:21])[CH2:29][CH2:28]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(27, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
